US05385692
In a 200 ml-reaction vessel, 3.16 g (1.02×10-2M) of 5-bromo-2-n-octylindan and 45 ml of dry THF were placed. To the mixture, 1.5M-solution of n-butyllithium in 7.2 ml of hexane was added dropwise in 20 minutes at -70° C. under argon atmosphere, followed by stirring for 2 hours at -70° C. To the above mixture, a solution of 4.14 g (2.20×10-2M) of triisopropylborate in 9 ml of dry THF was added dropwise in 20 minutes below -70° C., followed by stirring for 1 hour at the same temperature, gradual restoration to room temperature and further stirring for 20 hours. After the reaction, 15 ml of 10%-HCl aqueous solution was added dropwise to the reaction mixture to be decomposed under cooling, followed by extraction with ether. The ether layer was washed with water and dried with anhydrous sodium sulfate, followed by distilling-off of the solvent and purification by silica gel column chromatography to obtain 1.96 g of 2-octylindan-5-boronic acid (Yield: 70%).

reactant | 5-bromo-2-n-octylindan | 1.02×10-2M, 3.16 g | BrC=1C=C2CC(CC2=CC1)CCCCCCCC | C17H25Br
reactant | n-butyllithium | C(CCC)[Li]
reactant | triisopropylborate | 2.20×10-2M, 4.14 g | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
reactant | HCl | Cl | ClH
solvent | hexane | 7.2 ml | CCCCCC | C6H14
solvent | THF | 9 ml | C1CCOC1 | C4H8O
solvent | THF | 45 ml | C1CCOC1 | C4H8O
product | 2-octylindan-5-boronic acid | 1.96 g, Yield: 70% | C(CCCCCCC)C1CC2=CC=C(C=C2C1)B(O)O | C17H27BO2
